US04774331
To 5.4 ml of a solution of 2.04M of boron trichloride in toluene was added a solution of 1.67 g of carbazole in 10 ml of toluene, and the mixture was refluxed for 1 hr. After cooling, the mixture was treated with 1 ml of methyl thiocyanate and stirred at room temperature for 3 hr. The reaction mixture was poured into 4N aqueous sodium hydroxide under ice-cooling and stirred at 100° C. on an oil bath for 30 min. After cooling, the reaction solution was extracted with methylene chloride, washed with water and dried over anhydrous magnesium sulfate. The residue was chromatographed on a column of silica gel, and the eluate with methylene chloride was discarded. The eluate with 10% acetonitrile-methylene chloride was concentrated, and the product was recrystallized from acetone-ether to give 1.45 g of 1-cyanocarbazole as white crystals melting at 200°-201° C.

reactant | boron trichloride | 2.04M | B(Cl)(Cl)Cl | BCl3
reactant | carbazole | 1.67 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | methyl thiocyanate | 1 ml | CSC#N | C2H3NS
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-cyanocarbazole | 1.45 g, Yield: 75% | C(#N)C1=CC=CC=2C3=CC=CC=C3NC12 | C13H8N2
